US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (25 mg, 0.85 mmol) and 4-[(6-amino-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (27 mg, 0.094 mmol), followed by deprotection using 0.6 mL of TBAF in 2 mL of THF to give 7-cyclopentyl-2-[5-(piperidin-4-ylcarbamoyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (18 mg, 72%). MS (ESI) m/z 424.2 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.85 mmol, 25 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 4-[(6-amino-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 0.094 mmol, 27 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C=NC(=CC1)N | C16H24N4O3
reactant | TBAF | 0.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-cyclopentyl-2-[5-(piperidin-4-ylcarbamoyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 18 mg, 72% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(NC2CCNCC2)=O)N1C1CCCC1)C | C25H32N8O2
